US05773428
(3R,10S)-2-Methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl) hexanoic acid was taken up in ethanol (25 mL) and then 1N LiOH (0.3 mL, 3 eq) was added dropwise. The resulting homogeneous solution was stirred at room temperature for 3 hrs. Most of the ethanol was removed under reduced pressure at 30° C. Then water (5 mL) and ethyl acetate (30 mL) was added and with stirring, 4N HCl was added until pH=2. The ethyl acetate layer was further washed with brine, dried over Na2SO4, filtered and evaporated to dryness. Purified by reverse phase HPLC to give 47 mg of (3R,10S)-2-carboxy-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19), 13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid, as a white solid, MS: 484.5 (M-H)-.

reactant | (3R,10S)-2-Methoxycarbonyl-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl) hexanoic acid | COC(=O)C(C(=O)O)[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O | C27H37N3O6
reactant | LiOH | 1N, 0.3 mL, 3 eq | [Li+].[OH-]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (3R,10S)-2-carboxy-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19), 13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | 47 mg | C(=O)(O)C(C(=O)O)[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O | C26H35N3O6
